US06479495B1
1-[[3-Methoxy-4-(methylaminocarbonyloxy)phenyl]methyl]-4-(2-nitrophenyl)piperazine Hydrochloride
To a solution of 3-methoxy-4-(methylaminocarbonyloxy)benzaldehyde (0.60 g) in 1,2-dichloroethane (6 ml) was added 1-(2-nitrophenyl)piperazine(0.60 g) in 1,2-dichloroethane (5.5 ml), followed by sodium triacetoxyborohydride (0.92 g), with stirring. The reaction mixture was stirred for 6 hrs at ambient temperature, poured into saturated sodium carbonate solution (75 ml) and extracted with dichloromethane. The combined organic layers were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and flash chromatographed (silica gel), eluting with dichloromethane, followed by 0.2, 0.5, 1.0, 2.0% methanol:dichloromethane. The appropriate fractions were collected and concentrated to give 0.78 g (68%) of product, free base. The free base was dissolved in dichloromethane, diluted with diethyl ether and ethereal hydrogen chloride was added. The precipitate was collected and recrystallized from 2-propanol to give product, mp 214-218° C.

reactant | 3-methoxy-4-(methylaminocarbonyloxy)benzaldehyde | 0.60 g | COC=1C=C(C=O)C=CC1OC(=O)NC | C10H11NO4
reactant | 1-(2-nitrophenyl)piperazine | 0.60 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | sodium triacetoxyborohydride | 0.92 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dichloroethane | 6 ml | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 5.5 ml | ClCCCl | C2H4Cl2
product | 1-[[3-Methoxy-4-(methylaminocarbonyloxy)phenyl]methyl]-4-(2-nitrophenyl)piperazine Hydrochloride | 0.78 g, 68% | Cl.COC=1C=C(C=CC1OC(=O)NC)CN1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C20H24N4O5.ClH/c1-21-20(25)29-18-8-7-15(13-19(18)28-2)14-22-9-11-23(12-10-22)16-5-3-4-6-17(16)24(26)27;/h3-8,13H,9-12,14H2,1-2H3,(H,21,25);1H
